* Copyright 2020 The SkyWater PDK Authors
*
* Licensed under the Apache License, Version 2.0 (the "License");
* you may not use this file except in compliance with the License.
* You may obtain a copy of the License at
*
*     https://www.apache.org/licenses/LICENSE-2.0
*
* Unless required by applicable law or agreed to in writing, software
* distributed under the License is distributed on an "AS IS" BASIS,
* WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
* See the License for the specific language governing permissions and
* limitations under the License.

* SKY130 Spice File.
* statistics {
*   mismatch {
*   }
* }
.subckt  sky130_fd_pr__cap_vpp_06p8x06p1_m1m2m3_shieldl1m4 c0 c1 b m4
+ 
.param  mult = 1.0
+ 
+ ctot_a = {26.560e-15*sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__cor+0.0283/sqrt(6.1*6.8*mult*2)*26.560e-15*sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__cor*sky130_fd_pr__cap_vpp_06p8x06p1_l1m1m2_noshield__slope}
+ cm4_c0 = {2.74e-15*c0m4m3_vpp}
+ cm4_c1 = {1.53e-15*c1m4m3_vpp}
+ cli2s = {(3.00e-15-3.26e-16)*cli2s_vpp}
+ rat_m3 = 0.160
+ rat_m2 = 0.394
+ rat_m1 = 0.404
+ rat_m12li = 0.042
+ cap_m3 = {rat_m3*ctot_a}
+ cap_m2 = {rat_m2*ctot_a}
+ cap_m1 = {rat_m1*ctot_a}
+ cap_m12li = {rat_m12li*ctot_a}
+ lm1 = 2.42
+ lm2 = 2.77
+ lm3 = 2.25
+ wm1 = 0.140
+ wm2 = 0.140
+ wm3 = 0.300
+ nfm1 = 42.0
+ nfm2 = 38.0
+ nfm3 = 22.0
+ nvia2_c0 = 48.0
+ nvia2_c1 = 23.0
+ nvia_c0 = 60.0
+ nvia_c1 = 32.0
+ nmcon = 64.0
ccmvpp6p8x6p1_lim4shield m4 c0  c = {cm4_c0}
cm4_1 m4 c1 c = {cm4_c1}
rm31 c0 z1 r = {rm3*lm3/wm3*(1/3)*(1/nfm3)}
cm3 z1 c1 c = {cap_m3}
rvia2_1 c0 d0 r = {rcvia2/nvia2_c0}
rvia2_2 c1 d1 r = {rcvia2/nvia2_c1}
rm21 d0 a1 r = {rm2*lm2/wm2*(1/3)*(1/nfm2)}
cm2 a1 d1 c = {cap_m2}
rvia1 d0 e0 r = {rcvia/nvia_c0}
rvia2 d1 e1 r = {rcvia/nvia_c1}
rm11 e0 b1 r = {rm1*lm1/wm1*(1/3)*(1/nfm1)}
cm1 b1 e1 c = {cap_m1}
rmcon e0 f0 r = {rcl1/nmcon}
rliw f0 g0 r = {rl1}
cli2b g0 b c = {cli2s}
cm12li e1 g0 c = {cap_m12li}
.ends sky130_fd_pr__cap_vpp_06p8x06p1_m1m2m3_shieldl1m4
